US06579902B1
Stage A: 4-(Diphenylmethoxy)-8-methyl-7-(tetrahydro-2H-pyran-2-yl)-2H-1-benzopyran-2-one
55 g of 4-hydroxy-8-methyl-7-(tetrahydro-2H-pyran-2-yl)-2H-1-benzopyran-2-one is introduced into 250 ml of anhydrous dimethylformamide heated to 40° C., and a solution of 58.3 g of diphenyldiazomethane in 250 ml of DMF is added dropwise. The addition is made over 3 hours while maintaining the temperature at 40° C. Several portions of 3 g of diphenyldiazomethane are added again and agitation is carried out for one hour at 40° C. The reaction medium is poured into 2 l of sulphuric ether. The organic solution is washed with an aqueous solution of sodium bicarbonate, with a solution of soda (0.1 M), with water and with salt water followed by evaporation to dryness. The residue is agitated in an isopropyl ether-hexane mixture (1-2) followed by separation. The insoluble part is dried. 20.5 g of sought product is obtained.

reactant | 4-hydroxy-8-methyl-7-(tetrahydro-2H-pyran-2-yl)-2H-1-benzopyran-2-one | 55 g | OC1=CC(OC2=C1C=CC(=C2C)C2OCCCC2)=O | C15H16O4
reactant | diphenyldiazomethane | 58.3 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | diphenyldiazomethane | 3 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | ether | 2 l | CCOCC | C4H10O
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 4-(Diphenylmethoxy)-8-methyl-7-(tetrahydro-2H-pyran-2-yl)-2H-1-benzopyran-2-one | 20.5 g | C1(=CC=CC=C1)C(OC1=CC(OC2=C1C=CC(=C2C)C2OCCCC2)=O)C2=CC=CC=C2 | C28H26O4
